US04666916
(±)-[4aR*,10bS*]-7-Bromo-1,3,4,4a,5,10b-hexahydro-9-hydroxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine
A mixture of 0.5 g (±)[4aR*,10bS*]-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine and 5 g pyridine hydrochloride is heated under nitrogen at 200° for 20 minutes. The cooled reaction mixture is dissolved in water and basified with 6N NaOH. The aqueous phase is extracted with three 25 ml portions of CH2Cl2, the extracts are dried over Na2SO4, filtered, concentrated under reduced pressure, and flash chromatographed with methylene chloride/ammonia saturated methanol (10:1) to afford the title compound; m.p. HCl salt 259°-262°.

reactant | (±)[4aR*,10bS*]-7-bromo-1,3,4,4a,5,10b-hexahydro-9-methoxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine | 0.5 g | BrC1=CC(=CC2=C1OC[C@H]1[C@@H]2CN(CC1)C)OC | C14H18BrNO2
reactant | pyridine hydrochloride | 5 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
solvent | NaOH | 6N | [OH-].[Na+]
product | (±)-[4aR*,10bS*]-7-Bromo-1,3,4,4a,5,10b-hexahydro-9-hydroxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine | BrC1=CC(=CC2=C1OC[C@H]1[C@@H]2CN(CC1)C)O | C13H16BrNO2
